US09029388B2
A) 3-[4-(Benzyloxy)phenyl]-3H-imidazo[4,5-b]pyridin-2-amine
A mixture of N2-[4-(benzyloxy)phenyl]pyridine-2,3-diamine (3.96 g), cyanogen bromide (2.88 g), THF (60 mL) and water (15 mL) was stirred at room temperature for 48 hr. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/tetrahydrofuran), treated with activated carbon, and recrystallized from methanol/water to give the title compound (1.16 g).

reactant | N2-[4-(benzyloxy)phenyl]pyridine-2,3-diamine | 3.96 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC=C1N | C18H17N3O
reactant | cyanogen bromide | 2.88 g | N#CBr | CBrN
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 15 mL | O | H2O
product | 3-[4-(Benzyloxy)phenyl]-3H-imidazo[4,5-b]pyridin-2-amine | 1.16 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=NC=2C1=NC=CC2)N | C19H16N4O
